US04414216
A mixture of 13.7 g of 1-[2-(4-fluorophenyl)-tetrahydro-4-furylmethyl]-4-(2-aminoanilino)piperidine, 18 g of carbon disulfide and 4.2 g of potassium hydroxide is heated under reflux with stirring for 3.5 hours and then cooled. To the mixture are added 200 ml of ethanol, 126 ml of water and 32 ml of concentrated hydrochloric acid, and the whole is heated under reflux for 20 minutes. The solvent is then distilled off under reduced pressure. The residue is made alkaline with aqueous ammonia and extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by column chromatography on silica gel with chloroform eluant. To the thus obtained oil is added ethanolic hydrochloric acid. The crystals precipitated are collected by filtration and recrystallized from methanol-isopropyl ether to give 1-[1-(2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]benzimidazoline-2-thione hydrochloride as colorless needles, melting at 269°-270° C. with decomposition.

reactant | 1-[2-(4-fluorophenyl)-tetrahydro-4-furylmethyl]-4-(2-aminoanilino)piperidine | 13.7 g | FC1=CC=C(C=C1)C1OCC(C1)CN1CCC(CC1)NC1=C(C=CC=C1)N | C22H28FN3O
reactant | carbon disulfide | 18 g | C(=S)=S | CS2
reactant | potassium hydroxide | 4.2 g | [OH-].[K+]
reactant | hydrochloric acid | 32 ml | Cl | ClH
solvent | water | 126 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-[1-(2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]benzimidazoline-2-thione hydrochloride | Cl.FC1=CC=C(C=C1)C1OCC(C1)CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=S | InChI=1S/C23H26FN3OS.ClH/c24-18-7-5-17(6-8-18)22-13-16(15-28-22)14-26-11-9-19(10-12-26)27-21-4-2-1-3-20(21)25-23(27)29;/h1-8,16,19,22H,9-15H2,(H,25,29);1H
